US07618979B2
Step 1 2-chloronicotinaldehyde
To a solution of diisopropyl amine (110 mL, 780 mmol) in THF (500 mL) was added a 2.5 M hexanes solution of n-BuLi (300 mL, 750 mmol) at −40° C. After 5 min, the reaction mixture was cooled to −95° C. then DMPU (15 mL) and 2-chloropyridine (50 mL, 532 mmol) were successively added. The resulting mixture was then warmed and stirred at −78° C. for 4 h. After this time, the yellow suspension was cooled again to −95° C. before DMF (70 mL) was added. The final reaction mixture was warmed to −78° C. and stirred at that temperature for 1.5 h. The reaction mixture was poured into cold aqueous HCl (3N, 800 mL) and stirred for 5 min. Aqueous concentrated NH4OH was added to adjust pH to 7.5. The aqueous layer was extracted three times with EtOAc. The combined organic layer was washed with aqueous NH4Cl and brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude material was further purified by a pad of silica gel by eluting with a gradient from 100% hexanes to 100% EtOAc and the product was crystallized in cold hexanes to yield the title compound as a pale yellow solid.

reactant | diisopropyl amine | 780 mmol, 110 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 750 mmol, 300 mL | [Li]CCCC
reactant | 2-chloropyridine | 532 mmol, 50 mL | ClC1=NC=CC=C1 | C5H4ClN
reactant | HCl | 3N, 800 mL | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | DMPU | 15 mL | CN1CCCN(C1=O)C | C6H12N2O
product | 2-chloronicotinaldehyde | ClC1=C(C=O)C=CC=N1 | C6H4ClNO
